US07511055B2
Step 2: 8-Chloro-2-methyl-[1,7]naphthyridine
A suspension of 2-Methyl-7H-[1,7]naphthyridin-8-one (820 mg, 5.12 mmol) and phosphorus oxychloride (7 ml, 76.8 mmol) was stirred at 90° C. for 4 hours. The reaction mixture was evaporated to dryness, poured on ice and set alkaline with aqueous ammonia. A red solution resulted. The aqueous layer was extracted with dichloromethane (three times). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (ethyl acetate/heptane 0:100->20:80 gradient). The desired compound was obtained as a white solid (810 mg, 89%), MS: m/e=(M+H+).

reactant | 2-Methyl-7H-[1,7]naphthyridin-8-one | 5.12 mmol, 820 mg | CC1=NC=2C(NC=CC2C=C1)=O | C9H8N2O
reactant | phosphorus oxychloride | 76.8 mmol, 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Chloro-2-methyl-[1,7]naphthyridine | ClC=1N=CC=C2C=CC(=NC12)C | C9H7ClN2
